US07569583B2
4-Cyclobutoxymethyl-3-fluorobenzoic acid
n-Butyllithium (1.6 M in hexane; 7.0 ml) was added to a solution of 4-bromo-1-cyclobutoxymethyl-2-fluorobenzene (2.6 g) in THF (50 ml) at −78° C. After 15 minutes, dry ice (4.4 g) was added. After warming to room temperature, the mixture was diluted with water and extracted with ethyl acetate. The aqueous phase was acidified and again extracted with ethyl acetate. The organic phase was dried over magnesium sulfate, filtered and concentrated. The product with the molecular weight of 224.23 (C12H13FO3); MS (ESI): 225 (M+H+) was obtained in this way.

reactant | n-Butyllithium | 1.6 M, 7.0 ml | C(CCC)[Li]
reactant | 4-bromo-1-cyclobutoxymethyl-2-fluorobenzene | 2.6 g | BrC1=CC(=C(C=C1)COC1CCC1)F | C11H12BrFO
reactant | dry ice | 4.4 g | C(=O)=O | CO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-Cyclobutoxymethyl-3-fluorobenzoic acid | C1(CCC1)OCC1=C(C=C(C(=O)O)C=C1)F | C12H13FO3
